* Z:\mnt\spice-netlists\LTC3427_DC856A.asc
XU1 N001 0 IN IN N002 OUT LTC3427
L1 IN N001 6.8µ
R1 OUT N002 1Meg
R2 N002 0 604K
C3 OUT 0 6.8µ
V1 IN 0 2
Rload OUT 0 18
C1 IN 0 2.2µ
.tran 1m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* LTC3427 - 500mA, 1.25MHz Synchronous Step-Up DC/DC Converter\n2-Cell Alkaline to 3.3V Synchronous Boost Converter\nInput: 1.8V to 3.6V       Output: 3.3V @ 180mA
.lib LTC3427.sub
.backanno
.end
