* Z:\mnt\spice-netlists\LTC3546_DC1086A.asc
L1 N001 OUT1 1µ
C2 N005 0 1000p
V1 IN 0 5
XU1 N008 NC_01 N004 N006 IN IN IN IN IN N002 MP_02 N001 N001 0 0 0 IN 0 N005 N003 NC_03 N007 NC_04 IN 0 IN IN NC_05 LTC3546
R1 OUT1 N003 316K
R2 N003 N007 49.9K
C3 OUT1 N003 10p
L2 N002 OUT2 1µ
C5 N006 0 1000p
R3 OUT2 N004 200K
R4 N004 N008 49.9K
C6 OUT2 N004 33p
Rload1 OUT1 0 1.2
Rload2 OUT2 0 .9
R5 N008 0 49.9K
R6 N007 0 49.9K
C1 OUT2 0 22µ x2
C4 OUT1 0 22µ x2
.tran 350u startup
* LTC3546 - Dual Synchronous, Configurable, High Switching Frequency Buck Regulator\nInput: 2.5V to 5.5V, Output1: 2.5V @ 2A, Output2: 1.8V @ 2A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.lib LTC3546.sub
.backanno
.end
