* Z:\mnt\spice-netlists\LTC3620_DC1460A.asc
XU1 N002 0 0 N001 MP_01 N003 IN IN LTC3620
V1 IN 0 3.3
L1 N002 OUT 22µ
R1 OUT N003 1370K
R2 N003 0 681K
C1 OUT N003 22p
C2 OUT 0 1µ
R3 N001 OUT 715K
C3 IN 0 1µ
C4 IN 0 10µ
Rload OUT 0 180
.tran 1m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
* LTC3620 - Ultralow Power 15mA Synchronous Step-Down Switching Regulator\nLTC3620 in a typical Power Converter application - DC1460A\nInput: 2.8V to 5.5V      Output: 1.8V @ 15mA
.lib LTC3620.sub
.backanno
.end
