* Z:\mnt\spice-netlists\LTC3622_DC2003A.asc
XU1 IN N002 N001 N001 N003 0 IN N005 IN N007 N001 N006 IN N004 0 LTC3622
V1 IN 0 12
C1 IN 0 10µ
C2 IN 0 22µ
C3 N001 0 1µ
R1 N001 N002 100K
R2 N001 N003 100K
L1 N004 OUT1 3.3µ
C4 OUT1 0 47µ
R3 OUT1 N006 619K
R4 N006 0 137K
C5 OUT1 N006 22p
L2 N005 OUT2 4.7µ
R5 OUT2 N007 619K
R6 N007 0 84.5K
C6 OUT2 N007 22p
C7 OUT2 0 47µ
I1 OUT1 0 PULSE(0.1 1 1m 5n 5n 250u 1m) load
I2 OUT2 0 PULSE(0.1 1 1m 5n 5n 250u 1m) load
.tran 1.5m startup
* LTC3622 - 17V, Dual 1A Synchronous Step-Down Regulator with Ultralow Quiescent Current\nDual Monolithic Synchronous Buck Regulator\nInput: 5V to 17V     Output: 3.3V @ 1A and 5V @ 1A, Fsw = 1MHz
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LTC3622.sub
.backanno
.end
