* Z:\mnt\spice-netlists\LTC3704_DC524A.asc
M§Q1 N003 N007 0 0 Si7884DP
R1 N009 0 80K
R2 N008 0 1.24K
R3 OUT N008 4.02K
D1 N004 0 B540C
R4 N006 N005 20K
C2 N005 0 .0047µ
Rload OUT 0 2
V1 IN 0 10
C3 N001 0 4.7µ
XU1 N002 N006 N008 N009 0 0 N007 N001 IN N003 LTC3704
L1 N003 IN 4.7µ
L2 N004 OUT 4.7µ
R5 IN N002 274K
C4 IN 0 47µ
C1 0 OUT 150µ
C5 OUT 0 10µ
C6 N004 N003 22µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
K1 L1 L2 1
* LTC3704 - Wide Input Range, No Rsense Positive-to-Negative DC/DC Controller\nHigh Efficiency Positive-to-Negative Converter\n Input: +5V to +15V     Output -5.2V @ 2.5A
* Notes: \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc.  All rights reserved.
.lib LTC3704.sub
.backanno
.end
