* Z:\mnt\spice-netlists\LTC3839_DC1632A.asc
R1 N022 0 137K
V1 IN 0 12
C1 0 N001 4.7µ
M§Q1 IN N005 N010 N010 BSC050NE2LS
M§Q2 N010 N013 0 0 BSC010NE2LS
D1 N001 N007 CMDSH2-3
C2 N007 N010 .1µ
L1 N010 N009 .44µ
C3 N021 0 1n
R2 N019 OUT 15K
R3 N019 0 10K
M§Q3 IN N006 N011 N011 BSC050NE2LS
M§Q4 N011 N014 0 0 BSC010NE2LS
D2 N001 N008 CMDSH2-3
C4 N008 N011 .1µ
L2 N011 N012 .44µ
C5 N020 0 470p
XU1 MP_01 MP_02 N004 NC_03 N004 NC_04 0 N022 MP_05 N020 N021 N019 0 N015 N017 N004 MP_06 N003 N007 N005 N010 N013 N001 N002 0 N004 NC_07 N001 N014 N011 N006 N008 MP_08 NC_09 MP_10 N018 N016 LTC3839
C6 0 N004 1µ
R4 N009 OUT 2m
R5 N012 OUT 2m
C7 N016 N018 1n
C8 N015 N017 1n
R6 N015 N009 10
R7 N017 OUT 10
R8 N012 N016 10
R9 OUT N018 10
C9 OUT 0 100µ x2
C10 OUT 0 330µ x4
C11 IN 0 22µ x2
C12 IN 0 180µ
C13 N002 0 0.1µ
R10 N002 IN 2.2
R11 N001 N003 100K
R12 N001 N004 2.2
Rload OUT 0 0.0375
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 750u startup
* LTC3839 - Fast, Accurate, 2-Phase, Single-Output Step-Down DC/DC Controller with Differential Output Sensing\nFast Transient Step-Down DC/DC Converter with Rsense Current Sensing\nInput: 4.5V to 14V     Output: 1.5V @ 40A, Fsw = 300kHz
* Notes:\n  Small value is used for the TRACK/SS capacitors to reduce simulation time. Typical value should be .01µF.\n  More output capacitors may be needed to meet load step and output voltage requirements.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTC3839.sub
.backanno
.end
