* Z:\mnt\spice-netlists\LTC3857_DC1352A.asc
V1 IN 0 10
C1 N010 N011 .1µ
L1 N011 N012 7.2µ
R1 N012 OUT2 .008
D1 N001 N010 BAT54
R2 OUT2 N016 976K
R3 N016 0 102K
C2 N020 0 .001µ
M§Q1 IN N005 N008 N008 BSZ097N04LS
C3 N009 N008 .1µ
L2 N008 N007 3.2µ
R4 N007 OUT1 .005
D2 N001 N009 BAT54
R5 OUT1 N015 182K
R6 N015 0 57.6K
C4 N019 0 .001µ
C5 N001 0 4.7µ
R7 N001 N003 100K
R8 N001 N004 100K
C6 OUT2 0 68µ
C7 OUT1 0 220µ
C8 N017 0 4.7n
XU1 OUT1 0 0 NC_01 NC_02 0 RUN RUN OUT2 N012 N016 N018 N020 N004 N006 N011 N010 N014 N001 N002 0 IN N013 N009 N008 N005 N003 N001 N019 N017 N015 N007 LTC3857
M§Q2 N008 N013 0 0 BSZ097N04LS
V2 RUN 0 5
C9 N018 0 3.3n
Rload1 OUT1 0 .66
Rload2 OUT2 0 3
C10 OUT1 N015 10p
M§Q3 IN N006 N011 N011 BSZ097N04LS
M§Q4 N011 N014 0 0 BSZ097N04LS
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* LTC3857 - Low IQ, Dual Output, Synchronous Buck Controller\nInput: 4.5V to 36V, Output1: 3.3V @ 5A, Output2: 8.5V @ 3A
* Notes:\n \n  C2, C4 should be 0.1µF, not 0.001µF.  It is reduced in value here to speed up the time to simulate a soft start cycle.\n \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
.lib LTC3857.sub
.backanno
.end
