* Z:\mnt\spice-netlists\LTC3861_DC1822A.asc
V1 IN 0 12
V2 N003 0 5
XU2 MP_01 MP_02 N007 N005 N013 0 N012 N003 N003 N004 LTC4449
M§Q1 IN N007 N005 N005 BSC050NE2LS
M§Q2 N005 N013 0 0 BSC010NE2LS
L2 N005 OUT2 .47µ
C2 N015 OUT2 .22µ
XU3 MP_03 MP_04 N006 N001 N010 0 N011 N003 N003 N002 LTC4449
M§Q3 IN N006 N001 N001 BSC050NE2LS
M§Q4 N001 N010 0 0 BSC010NE2LS
L1 N001 OUT1 .47µ
C3 N014 OUT1 .22µ
D1 N003 N002 CMDSH2-3
C7 N002 N001 .22µ
D2 N003 N004 CMDSH2-3
C8 N004 N005 .22µ
Cout2 OUT1 0 100µ
Cout1 OUT1 0 330µ
Cout3 OUT2 0 100µ
Cout4 OUT2 0 330µ
Rload1 OUT1 0 60m
Rload2 OUT2 0 48m
C13 IN 0 22µ
XU1 N018 N016 N022 0 N020 N021 0 N023 N017 N019 NC_05 N025 NC_06 NC_07 NC_08 N009 NC_09 N012 NC_10 N026 0 N015 OUT2 OUT1 N014 MP_11 N024 NC_12 N011 NC_13 N008 0 0 IN NC_14 N003 LTC3861
C6 N016 N018 1.5n
C1 N018 N020 3.3n
R6 N022 OUT1 15.0K
R7 0 N022 10.0K
R8 N023 0 10.0K
R9 OUT2 N023 10.0K
C4 N017 N019 1.5n
C5 N019 N021 3.3n
R10 N024 0 53.6K
R11 N026 0 53.6K
R12 N025 0 34.0K
R1 N003 N008 100K
R2 N003 N009 100K
C9 IN 0 180µ
R4 N001 N014 2.87K
R3 N005 N015 2.87K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 750u startup
* Note:\n  More output capacitors may be needed to meet load step and output voltage requirements.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
* LTC3861 - Dual, Multiphase Step-Down Voltage Mode DC/DC Controller with Accurate Current Sharing\nHigh Current, Dual Output Synchronous Buck Converter with DCR Current Sensing\nInput: 4V-14V     Outputs: 1.2V @ 25A and 1.8V @ 25A, Fsw = 500kHz
* 1.5V @ 25A
* 1.2V @ 25A
.lib LTC3861.sub
.lib LTC4449.sub
.backanno
.end
